US09282743B2
Step 2: Preparation of Methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-methoxy-amino]-ethyl ester
To a solution of 2-[(2-hydroxy-ethyl)-methoxy-amino]-ethanol (20.0 g, 148.0 mmol) and triethylamine (41.3 ml, 30.0 g, 296.3 mmol) in tetrahydrofuran (855 ml) under argon was added methanesulfonyl chloride (25.2 ml, 37.3 g, 325.6 mmol) dropwise, keeping the temperature below 20° C. with an ice bath. The reaction mixture was stirred at room temperature for 4 hours, the resulting precipitate filtered off and the filtrate concentrated. The residue was diluted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated. Yield: 40.0 g of methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-methoxy-amino]-ethyl ester as a pale yellow oil, this material was used without further purification.

reactant | 2-[(2-hydroxy-ethyl)-methoxy-amino]-ethanol | 148.0 mmol, 20.0 g | OCCN(CCO)OC | C5H13NO3
reactant | triethylamine | 296.3 mmol, 41.3 ml, 30.0 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 325.6 mmol, 25.2 ml, 37.3 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 855 ml | O1CCCC1 | C4H8O
product | Methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-methoxy-amino]-ethyl ester | CS(=O)(=O)OCCN(CCOS(=O)(=O)C)OC | C7H17NO7S2
